US06696476B2
Step A: [1-[(R)-2-(tert-Butyldimethylsilanyloxy)propyl]-7-hydroxymethyl-1H-indazol-6-yloxy]acetic Acid Tert-butyl Ester
To a mixture of 1-[(R)-2-(tert-Butyldimethylsilanyloxy)-propyl]-1H-indazol-6-ol (3.06 g, 10 mmol) in DMF (60 mL) was added formaldehyde (37%, 2.43 mL, 30 mmol) and 2 N NaOH (10 mmol). The mixture was stirred overnight and t-butyl bromoacetate (2.42 mL, 2.93 g, 15 mmol) was added. After 1 h the mixture was mixed with a saturated aqueous solution of sodium bicarbonate (100 mL) and extracted with ethyl acetate. Chromatography on silica (gradient, 5% to 25% ethyl acetate in hexane) gave an oil (2.87 g, 64%): LC/MS (+APCI) m/z 451(M+H).

reactant | 1-[(R)-2-(tert-Butyldimethylsilanyloxy)-propyl]-1H-indazol-6-ol | 10 mmol, 3.06 g | [Si](C)(C)(C(C)(C)C)O[C@@H](CN1N=CC2=CC=C(C=C12)O)C | C16H26N2O2Si
reactant | formaldehyde | 30 mmol, 2.43 mL | C=O | CH2O
reactant | NaOH | 10 mmol, 2 N | [OH-].[Na+]
reactant | t-butyl bromoacetate | 15 mmol, 2.42 mL, 2.93 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | [1-[(R)-2-(tert-Butyldimethylsilanyloxy)propyl]-7-hydroxymethyl-1H-indazol-6-yloxy]acetic Acid Tert-butyl Ester | 2.87 g, 64% | C(C)(C)(C)OC(COC1=CC=C2C=NN(C2=C1CO)C[C@@H](C)O[Si](C)(C)C(C)(C)C)=O | C23H38N2O5Si
